US06855829B2
2-(Pyrrolidin-1-yl)-4-(trifluoromethyl)-N-[[4-(trifluoromethyl)phenyl]methyl]pyrimidine-5-carboxamide KCNQ Opener Compound Synthesis/Preparation
To a solution of 2-chloro-4-(trifluoromethyl)pyrimidine-5-carbonyl chloride (0.74 g, 3.0 mmol) in dichloromethane (5 mL), was added saturated sodium bicarbonate (5 mL) and 4-(trifluoromethyl)benzylamine (0.58 g, 3.3 mmol). The reaction mixture was stirred at room temperature for 3 hours. The precipitated white solid of 2-chloro-4-(trifluoromethyl)-N-[[4-(trifluoromethyl)phenyl]methyl]pyrimidine-5-carboxamide was collected by filtration and then dissolved in acetonitrile (10-15 mL). Potassium carbonate (0.62 g, 4.5 mmol) and pyrrolidine (0.43 g, 6 mmol)) were added. The reaction mixture was stirred at room temperature overnight. The inorganic salts were filtered off and the filtrate was concentrated in vacuo to provide the pure titled compound: MS m/e 419 (MH+). 1H NMR (DMSO-d6): δ 9.10 (t, J=5.9 Hz, 1H), 8.68 (s, 1H), 7.71 (d, J=8.1 Hz, 2H), 7.55 (d, J=8.0 Hz, 2H), 4.51 (d, J=6.1 Hz, 2H), 3.5-3.55 (m, br, 4H), 1.93-1.98 (m, 4H).

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine-5-carbonyl chloride | 3.0 mmol, 0.74 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | 4-(trifluoromethyl)benzylamine | 3.3 mmol, 0.58 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | Potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 6 mmol, 0.43 g | N1CCCC1 | C4H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(Pyrrolidin-1-yl)-4-(trifluoromethyl)-N-[[4-(trifluoromethyl)phenyl]methyl]pyrimidine-5-carboxamide | N1(CCCC1)C1=NC=C(C(=N1)C(F)(F)F)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C18H16F6N4O
